2146-11-11 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Had respiratory decompensation yesterday afternoon; CXR showed new
   infiltrate.  Required face mask at 70% FiO2 and remained on that
   throughout the night.  Responded to lasix.
   Hct drop to 20, received 1u PRBCs this morning.
   Continuing to have severe pain.
 BLOOD CULTURED - At [**2146-11-10**] 09:07 PM
   PICC
   venipuncture
 URINE CULTURE - At [**2146-11-10**] 09:14 PM
 SPUTUM CULTURE - At [**2146-11-11**] 04:56 AM
 FEVER - 103.0
F - [**2146-11-11**] 12:00 AM
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Vancomycin
   Rash; Fever/[**Doctor First Name **]
   Aztreonam
   Rash; Fever/[**Doctor First Name **]
   Last dose of Antibiotics:
   Linezolid - [**2146-11-11**] 12:45 AM
   Meropenem - [**2146-11-11**] 07:31 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2146-11-11**] 12:00 AM
   Furosemide (Lasix) - [**2146-11-11**] 07:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-11**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 37.2
C (98.9
   HR: 103 (96 - 129) bpm
   BP: 146/42(88) {120/42(64) - 159/91(104)} mmHg
   RR: 22 (16 - 34) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  1,345 mL
                                                                    600 mL
   PO:
           TF:
   IVF:
                                                                  1,345 mL
                                                                    577 mL
   Blood products:
   23 mL
   Total out:
                                                                  1,680 mL
                                                                    885 mL
   Urine:
                                                                  1,680 mL
                                                                    885 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -335 mL
                                                                   -285 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: 7.47/37/72/27/4
   PaO2 / FiO2: 103
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   586 K/uL
   6.4 g/dL
   130 mg/dL
   2.0 mg/dL
   27 mEq/L
   4.4 mEq/L
   28 mg/dL
   111 mEq/L
   146 mEq/L
   20.5 %
   16.1 K/uL
        [image002.jpg]
                            [**2146-11-10**]  03:18 PM
                            [**2146-11-10**]  04:34 PM
                            [**2146-11-10**]  08:44 PM
                            [**2146-11-11**]  04:09 AM
   WBC
   17.4
   16.1
   Hct
   24.8
   20.5
   Plt
   614
   586
   Cr
   2.0
   TCO2
   27
   29
   Glucose
   130
   Other labs: PT / PTT / INR:14.6/35.0/1.3, ALT / AST:31/21, Alk Phos / T
   Bili:139/0.4, Differential-Neuts:81.9 %, Lymph:11.4 %, Mono:5.8 %,
   Eos:0.7 %, Lactic Acid:1.1 mmol/L, LDH:282 IU/L, Mg++:2.2 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   76 yo M with VRE endocarditis (abx course completed), spinal abcesses
   s/p laminectomy, recent prolonged intubation for aspiration PNA,
   readmitted to [**Hospital1 5**] from rehab with recurrent aspiration, transferred
   to the MICU with hypoxia.
   .
   # Acute Hypoxia: Given acuity of decompensation on the floor and his hx
   of recurrent aspiration, this most likely represents another aspiration
   event or a progression in the pneumonitis secondary to the event for
   which he was admitted. Also could be progression of PNA, but pt is
   already on broad gram postive and gram negative covg.
   - switched from dapto/[**Last Name (un) **] to linezolid/[**Last Name (un) **] for lung penetration
   - low suspicion for PE as was anticoagulated
   - continuing to have intermittent hypoxic episodes, likely from
   progressive pneumonia
   - consider eosinophilic pneumonia as etiology and follow peripheral eos
   - may need intubation if does not improve
   - lasix as needed to keep dry; flashes with movements
   .
   # Fevers/leukocytosis: Likely unrelated to prior VRE as course
   completed or spinal process as no interval change.  Could be rxn to
   pneumonitis vs PNA.
   - tx as above
   - f/u UCX, BCX, SCX
   - ID following
   .
   # Epidural abscess s/p L5-S1 laminectomy: MRI unchanged
   -we were continuing daptomycin - therapy goes until [**11-14**]
 but now is
   switched to linezolid
   .
   # Altered mental status: Being worked up by floor team w/ neuro c/s and
   EEG. He is actually much more lucid and conversant than he was prior to
   transfer to rehab. Suspect that this is a slow recovery s/p two weeks
   of intubation, but appreciate neuro's continued input.
   .
   # Myoclonic jerks: Myoclonus with no seizure activity.
   - f/u neuro recs
   .
   # Lower extremity weakness: The patient presents with lower extremity
   weakness that per neurosurg was similar to his last admission. It
   likely relates to neurological damage and generalized deconditioning.
   Appears to have contracture in left leg at knee
   .
   # Lower extremity pain:
   -Continue gabapentin.
   -pain consult
   .
   # Right arm swelling: The patient was noted to have a superficial
   cephalic vein clot on his right arm without the presence of DVT during
   an ultrasound on his last admission.
   - stopped heparin gtt
   .
   # Transaminitis: improving, trend.
   # Coagulopathy: po vitamin K, trend.
   # Thrombocytosis: trend. ASA for PLTS>1000
   # Diarrhea: The patient has persistent diarrhea. CDIFF NEGATIVE
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: sc heparin, bowel regimen
   # ACCESS: PIV
   # CODE: FULL
   # CONTACT:  DAUGHTER, WIFE
   # DISPO: LIKELY FLOOR
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2146-11-10**] 06:34 AM
   PICC Line - [**2146-11-10**] 06:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2146-11-11 08:02:00 Physician Attending Progress Note
Chief Complaint:
   Respiratory distress
   HPI:
    76M w/ h/o VRE endocarditis (AoV), epidural abscess s/p laminectomy,
   h/o recurrent aspiration.  Mr. [**Known lastname 2506**] has had two recent
   hospitaliizations and is well known to the ICU staff.  Initially
   admitted to the floor on [**10-7**] for ongoing fever.  Notably during his
   prior admission, the patient had fevers, felt to be [**1-17**] to aspiration
   pneumonitis.  Notably in the ED the patient
s NGT was coiled in his
   mouth.  He was also started on empiric tx for H1N1 SWO infection.
   Developed increasing hypoxia on the floor and transferred to the ICU.
   24 Hour Events:
   Transitioned to 70% FM
 BLOOD CULTURED - At [**2146-11-10**] 09:07 PM
   PICC
   venipuncture
 URINE CULTURE - At [**2146-11-10**] 09:14 PM
 SPUTUM CULTURE - At [**2146-11-11**] 04:56 AM
 FEVER - 103.0
F - [**2146-11-11**] 12:00 AM
   History obtained from Patient
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Vancomycin
   Rash; Fever/[**Doctor First Name **]
   Aztreonam
   Rash; Fever/[**Doctor First Name **]
   Last dose of Antibiotics:
   Linezolid - [**2146-11-11**] 12:45 AM
   Meropenem - [**2146-11-11**] 07:31 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2146-11-11**] 07:32 AM
   Hydromorphone (Dilaudid) - [**2146-11-11**] 07:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-11**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 36.1
C (96.9
   HR: 103 (96 - 129) bpm
   BP: 150/71(87) {125/42(64) - 159/91(104)} mmHg
   RR: 17 (16 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  1,345 mL
                                                                    643 mL
   PO:
           TF:
   IVF:
                                                                  1,345 mL
                                                                    580 mL
   Blood products:
   63 mL
   Total out:
                                                                  1,680 mL
                                                                    885 mL
   Urine:
                                                                  1,680 mL
                                                                    885 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -335 mL
                                                                   -242 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.47/37/72/27/4
   PaO2 / FiO2: 103
   Physical Examination
   Gen: Well appearing, no acute distress.  Answers questions
   appropriately
   HEENT: PERRL.
   OP clr.
   CV: Regular S1,S2. II/VI SEM.
   Limited pulmonary exam due to pain with movement. Diffuse  b/l rhonchi
   anteriorly..
   Abd: +bs. Soft. NT. ND.
   Ext: 2+ LE edema.  Tender to palpation diffusely RLE and Left side.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6.4 g/dL
   586 K/uL
   130 mg/dL
   2.0 mg/dL
   27 mEq/L
   4.4 mEq/L
   28 mg/dL
   111 mEq/L
   146 mEq/L
   20.5 %
   16.1 K/uL
        [image002.jpg]
                            [**2146-11-10**]  03:18 PM
                            [**2146-11-10**]  04:34 PM
                            [**2146-11-10**]  08:44 PM
                            [**2146-11-11**]  04:09 AM
   WBC
   17.4
   16.1
   Hct
   24.8
   20.5
   Plt
   614
   586
   Cr
   2.0
   TCO2
   27
   29
   Glucose
   130
   Other labs: PT / PTT / INR:14.6/35.0/1.3, ALT / AST:31/21, Alk Phos / T
   Bili:139/0.4, Differential-Neuts:81.9 %, Lymph:11.4 %, Mono:5.8 %,
   Eos:0.7 %, Lactic Acid:1.1 mmol/L, LDH:282 IU/L, Mg++:2.2 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
 .H/O PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   1.Hypoxemia
originally attributed to aspiration PNA./ [**Last Name (un) 10170**]
   syndrome.  CXR shows continued progression of b/l peripheral
   opacities.  [**Month (only) 8**] be [**1-17**] to aspiration (given history) but CXR pattern is
   inconsistent with this diagnosis.  Given progression and recurrent
   fevers cannot r/o other etiologies incl BOOP, hypersensitivity
   pneumonitis, and eosinophilic pna.  This am developed small amounts of
   hemoptysis.   Currently oxygen requirement too significant to consider
   bronchoscopy.   In d/w Dr. [**Last Name (STitle) 10175**], [**First Name3 (LF) 124**] check peripheral eos again
   (mildly elev on admission).  I discussed with the family the prospect
   of bronchoscoy which they are considering.  They are at the bedside and
   clearly understand the risks of waiting.  Mr. [**Known lastname 2506**] also acknowledges
   these risks.
      -cont linezolid/meropenem.
      -await DFA testing, cont osteltamavir given for possible H1N1.
      - poor cough, chest PT.
      -[**Doctor First Name **]/ANCA r/o capillaritis.
   2. Superficial venous clot- R cephalic vv.  Local tx.
   3. Endocarditis
 on dapto, Await repeat TTE
   4. Mental status
 improved by accounts of team that know him well .
   Likely [**1-17**] improvement of small infarcts/emboli previously noted.
   5. Leukocytosis - ? if related to pneumonitis, as above.  F/u UA,
   cultures.
   Other issues per HO note
   Appreciate Neuro and Neurosurg consult.
   ICU Care
   Nutrition: D5, await speech and swallow eval.
   Glycemic Control:
   Lines / Intubation:
   22 Gauge - [**2146-11-10**] 06:34 AM
   PICC Line - [**2146-11-10**] 06:35 AM
   Comments:
   Prophylaxis:
   DVT: currently anticoagulated.
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Dtr at bedside.
   Code status: Full code
   Disposition: ICU
   Total time spent: 45 minutes
   Patient is critically ill.
   ------ Protected Section ------
   Critical Care Attending Addendum
   I saw and examined Mr. [**Known lastname 2506**] with the ICU team, whose note from above
   reflects my input.  Complex case of a 76 y/o man with recent aortic
   valve VRE endocarditis, epidural abscess s/p laminectomy, and recurrent
   aspiration now presents with increasing hypoxemia and respiratory
   distress in the setting of high-grade fever.  Although aspiration is
   perhaps most likely, progression of pulmonary parenchymal opacities is
   unusual and could suggest diseases like eosinophilic disease, COP,
   alveolar hemorrhage, etc.  It is possible that he could tolerate an
   awake bronchoscopy, but the risk of intubation is very high.  We
   discussed this with him and family, and they did not wish to proceed.
   Will continue present antibiotics, await cultures and DFA, and send
   serologies.  I feel that the risks of empiric steroids outweigh
   benefits at this point, given his known endocarditis, likelihood of
   infection, etc.  Appreciate ID
s help.  Other issues as per the ICU
   team note from today and Dr. [**Last Name (STitle) 7826**]
s note above.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 560**], MD
   on:[**2146-11-11**] 21:53 ------

2146-11-12 07:48:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   HPI:
    76M w/ h/o VRE endocarditis (AoV), epidural abscess s/p laminectomy,
   h/o recurrent aspiration.  Mr. [**Known lastname 2506**] has had two recent
   hospitaliizations and is well known to the ICU staff.  Initially
   admitted to the floor on [**10-7**] for ongoing fever.  Notably during his
   prior admission, the patient had fevers, felt to be [**1-17**] to aspiration
   pneumonitis.  Notably in the ED the patient
s NGT was coiled in his
   mouth.  He was also started on empiric tx for H1N1 SWO infection.
   Developed increasing hypoxia on the floor and transferred to the ICU.
   24 Hour Events:
                             History obtained from Patient, Family / Friend
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Vancomycin
   Rash; Fever/[**Doctor First Name **]
   Aztreonam
   Rash; Fever/[**Doctor First Name **]
   Last dose of Antibiotics:
   Meropenem - [**2146-11-12**] 12:40 AM
   Linezolid - [**2146-11-12**] 01:40 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2146-11-11**] 10:01 AM
   Hydromorphone (Dilaudid) - [**2146-11-12**] 01:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-12**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.8
C (98.3
   HR: 96 (96 - 116) bpm
   BP: 138/68(85) {135/54(73) - 158/104(113)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,391 mL
                                                                    478 mL
   PO:
             TF:
   IVF:
                                                                  1,016 mL
                                                                    478 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,925 mL
                                                                    470 mL
   Urine:
                                                                  2,925 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,535 mL
                                                                      8 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Gen: Well appearing, no acute distress.  Answers questions
   appropriately
   HEENT: PERRL.
   OP clr.
   CV: Regular S1,S2. II/VI SEM.
   Limited pulmonary exam due to pain with movement. Diffuse  b/l rhonchi
   anteriorly..
   Abd: +bs. Soft. NT. ND.
   Ext: 2+ LE edema.  Tender to palpation diffusely RLE and Left side.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   616 K/uL
   150 mg/dL
   1.7 mg/dL
   26 mEq/L
   3.9 mEq/L
   24 mg/dL
   109 mEq/L
   146 mEq/L
   25.4 %
   18.5 K/uL
        [image002.jpg]
                            [**2146-11-10**]  03:18 PM
                            [**2146-11-10**]  04:34 PM
                            [**2146-11-10**]  08:44 PM
                            [**2146-11-11**]  04:09 AM
                            [**2146-11-11**]  05:38 PM
                            [**2146-11-12**]  04:45 AM
   WBC
   17.4
   16.1
   18.3
   18.5
   Hct
   24.8
   20.5
   24.3
   25.4
   Plt
   [**Telephone/Fax (3) 10213**]16
   Cr
   2.0
   1.9
   1.7
   TCO2
   27
   29
   Glucose
   130
   121
   150
   Other labs: PT / PTT / INR:14.6/35.0/1.3, ALT / AST:31/21, Alk Phos / T
   Bili:139/0.4, Differential-Neuts:87.9 %, Lymph:7.4 %, Mono:3.7 %,
   Eos:0.7 %, Lactic Acid:1.1 mmol/L, LDH:282 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan:
   76M w/ h/o VRE endocarditis (AoV), epidural abscess s/p laminectomy,
   with progressive hypoxemia, hemoptysis, and ongoing fevers.
   1.Hypoxemia
originally attributed to aspiration PNA./ [**Last Name (un) 10170**]
   syndrome.  CXR shows continued progression of b/l peripheral
   opacities.  [**Month (only) 8**] be [**1-17**] to aspiration (given history) but CXR pattern is
   inconsistent with this diagnosis.  Given progression and recurrent
   fevers cannot r/o other etiologies incl BOOP, hypersensitivity
   pneumonitis, and eosinophilic pna.  Yesterday developed small amounts
   of hemoptysis.   Seems less likely c/w alveolar hemorrhage given
   improvement overnight.  Currently oxygen requirement too significant to
   consider bronchoscopy.
    I discussed with the family the prospect of bronchoscoy which they are
   considering.  They were at the bedside and clearly understand the risks
   of waiting.  Now that Mr. [**Known lastname 2506**] is improved will plan to re-check CXR
   and re-assess.
      -cont linezolid/meropenem.
      -Cont osteltamavir given for possible H1N1.
      - poor cough, chest PT.
      -[**Doctor First Name **]/ANCA r/o capillaritis.
   2. Fevers
 unclear etiology.  ? if [**1-17**] pulmonary process, incl
   possibly non-infectious. Neurosurgery evaluated felt disciitis was not
   a further issue and should continue to complete abx course.
   2. Superficial venous clot- R cephalic vv.  Local tx.
   3. Endocarditis
 on dapto, now linezolid to complete 6wks
 TTE w/o
   evidence of further endocarditis.
   4. Mental status
 improved by accounts of team that know him well .
   Likely [**1-17**] improvement of small infarcts/emboli previously noted.
   Other issues per HO note
   Appreciate Neuro and Neurosurg consult.
   ICU Care
   Nutrition: D5, await speech and swallow eval.
   Glycemic Control:
   Lines / Intubation:
   22 Gauge - [**2146-11-10**] 06:34 AM
   PICC Line - [**2146-11-10**] 06:35 AM
   Comments:
   Prophylaxis:
   DVT: currently anticoagulated.
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Dtr at bedside.
   Code status: Full code
   Disposition: ICU
   Total time spent: 45 minutes
   Patient is critically ill.
   ------ Protected Section ------
   Critical Care Attending:
   Oxygenation getting better today as is the CXR. The sequence of films,
   however, is worrisome for a possible [**Location (un) 10225**]
s hump in the RUL. Patient
   has had two episodes of hemoptysis today. He is non smoker.
   On exam, patient is comfortable with nasal oxygen supplementation.
   Chest is resonant to percussion with good air movement bilaterally. No
   wheeze or rhonchus. S1 and S2 normal. No gallop or murmurs. Abdomen
   soft without guarding or tenderness. Right leg with 1-2+ edema.
   I am concerned that the patient may have had pulmonary emboli as part
   of his respiratory decompensation and as explanation for his
   hemoptysis. Would proceed with CTA (with proper preparation of kidneys
   in light of mild renal failure) to assess for clot and to get better
   assessment of lung parenchyma as well. Would continue with present
   antibiotics for associated pneumonia. I do not think a bronchoscopy
   will be revealing at this time re: the hemoptysis; doubt lung ca in
   lifelong non smoker.
   Critical Care: 30 mins.
   ------ Protected Section Addendum Entered By:[**Name (NI) 214**] [**Last Name (NamePattern1) **], MD
   on:[**2146-11-12**] 16:57 ------

2146-11-12 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Echo: no vegitation, old apical hypokinesis
   -AM [**Last Name (un) **] stim ordered given eiosinophilia: WNL
   - Compliments checked for ? embolic disease
   Goals of care readdressed, patient wants intubation if necessary (FC)
   - Pain service consulted: recommended increasing neurontin, PRN
   dilaudid, consider 10 mg amitryptaline at night. amitryptiline not
   started
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Vancomycin
   Rash; Fever/[**Doctor First Name **]
   Aztreonam
   Rash; Fever/[**Doctor First Name **]
   Last dose of Antibiotics:
   Meropenem - [**2146-11-12**] 12:40 AM
   Linezolid - [**2146-11-12**] 01:40 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2146-11-11**] 10:01 AM
   Hydromorphone (Dilaudid) - [**2146-11-12**] 01:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-12**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.8
C (98.3
   HR: 96 (96 - 116) bpm
   BP: 138/68(85) {135/54(73) - 158/104(113)} mmHg
   RR: 15 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,391 mL
                                                                    481 mL
   PO:
             TF:
   IVF:
                                                                  1,016 mL
                                                                    481 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,925 mL
                                                                    470 mL
   Urine:
                                                                  2,925 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,535 mL
                                                                     11 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Gen: Well appearing, no acute distress.  Answers questions
   appropriately
   HEENT: PERRL.
   OP clr.
   CV: Regular S1,S2. II/VI SEM.
   Limited pulmonary exam due to pain with movement. Diffuse  b/l rhonchi
   anteriorly..
   Abd: +bs. Soft. NT. ND.
   Ext: 2+ LE edema.  Tender to palpation diffusely RLE and Left side.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   616 K/uL
   8.0 g/dL
   150 mg/dL
   1.7 mg/dL
   26 mEq/L
   3.9 mEq/L
   24 mg/dL
   109 mEq/L
   146 mEq/L
   25.4 %
   18.5 K/uL
        [image002.jpg]
                            [**2146-11-10**]  03:18 PM
                            [**2146-11-10**]  04:34 PM
                            [**2146-11-10**]  08:44 PM
                            [**2146-11-11**]  04:09 AM
                            [**2146-11-11**]  05:38 PM
                            [**2146-11-12**]  04:45 AM
   WBC
   17.4
   16.1
   18.3
   18.5
   Hct
   24.8
   20.5
   24.3
   25.4
   Plt
   [**Telephone/Fax (3) 10213**]16
   Cr
   2.0
   1.9
   1.7
   TCO2
   27
   29
   Glucose
   130
   121
   150
   Other labs: PT / PTT / INR:14.6/35.0/1.3, ALT / AST:31/21, Alk Phos / T
   Bili:139/0.4, Differential-Neuts:87.9 %, Lymph:7.4 %, Mono:3.7 %,
   Eos:0.7 %, Lactic Acid:1.1 mmol/L, LDH:282 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   76 yo M with VRE endocarditis (abx course completed), spinal abcesses
   s/p laminectomy, recent prolonged intubation for aspiration PNA,
   readmitted to [**Hospital1 5**] from rehab with recurrent aspiration, transferred
   to the MICU with hypoxia.
   .
   # Acute Hypoxia: Given acuity of decompensation on the floor and his hx
   of recurrent aspiration, this most likely represents another aspiration
   event or a progression in the pneumonitis secondary to the event for
   which he was admitted. Also could be progression of PNA, but pt is
   already on broad gram postive and gram negative covg.
   - switched from dapto/[**Last Name (un) **] to linezolid/[**Last Name (un) **] for lung penetration. Will
   continue for 8 d course dtarting [**11-10**].
   - much improved s/p aggressive chest PT
   - lasix as needed to keep dry; flashes with movements
   - some concern for vasculitic/inflammatory process given atypical
   appearance of CXR & concomittant reanl failure; will spin urine
   .
   # Fevers/leukocytosis: Tm 100.8 last night. Likely unrelated to prior
   VRE as course completed or spinal process as no interval change.  Could
   be rxn to pneumonitis vs PNA.
   - tx as above
   - f/u UCX, BCX, SCX
   - ID following
   .
   # Epidural abscess s/p L5-S1 laminectomy: MRI unchanged
   -we were continuing daptomycin - therapy goes until [**11-14**]
 but now is
   switched to linezolid
   .
   # Altered mental status: Being worked up by floor team w/ neuro c/s and
   EEG. He is actually much more lucid and conversant than he was prior to
   transfer to rehab. Suspect that this is a slow recovery s/p two weeks
   of intubation, but appreciate neuro's continued input.
   .
   # Myoclonic jerks: Myoclonus with no seizure activity.
   - f/u neuro recs
   .
   # Lower extremity weakness: The patient presents with lower extremity
   weakness that per neurosurg was similar to his last admission. It
   likely relates to neurological damage and generalized deconditioning.
   Appears to have contracture in left leg at knee
   .
   # Lower extremity pain:
   -Continue gabapentin.
   -pain consult appreciated: uptitirating dilaudid, may add amitryptiline
   if MS continues to improve
   .
   # Right arm swelling: The patient was noted to have a superficial
   cephalic vein clot on his right arm without the presence of DVT during
   an ultrasound on his last admission.
   - stopped heparin gtt
   .
   # Transaminitis: improving, trend.
   # Coagulopathy: po vitamin K, trend.
   # Thrombocytosis: trend. ASA for PLTS>1000
   # Diarrhea: The patient has persistent diarrhea. CDIFF NEGATIVE
   .
   # FEN: IVFs / replete lytes prn, repeat speech and swallow c/s
   # PPX: sc heparin, bowel regimen
   # ACCESS: PIV , PICC
   # CODE: FULL
   # CONTACT:  DAUGHTER, WIFE
   # DISPO: MICU for continued chest PT and intermittent hypoxia
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2146-11-10**] 06:34 AM
   PICC Line - [**2146-11-10**] 06:35 AM

2146-11-13 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Increased dilaudid for pain control
   - Urine spun: scant granular cast & many yeast
   - ESR=145, CRP-P
   - Additional scant hemoptysis
   - CT chest: PRELIM
   1. No pulmonary embolism, aortic dissection or aneurysm.
   2. Large bilateral pleural effusions, increased since [**10-30**] as
   well as progressive consolidation involving the aerated portion of both
   lungs, strikingly progressed in the left lung with associated
   bronchiectasis, all progressed and new from [**10-30**].
   3. Extensive atherosclerotic disease.
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Vancomycin
   Rash; Fever/[**Doctor First Name **]
   Aztreonam
   Rash; Fever/[**Doctor First Name **]
   Last dose of Antibiotics:
   Linezolid - [**2146-11-13**] 12:01 AM
   Meropenem - [**2146-11-13**] 12:01 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-11-12**] 09:00 PM
   Hydromorphone (Dilaudid) - [**2146-11-12**] 11:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-13**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 86 (83 - 95) bpm
   BP: 147/52(75) {121/49(66) - 147/65(83)} mmHg
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,667 mL
                                                                    947 mL
   PO:
             TF:
   IVF:
                                                                  1,667 mL
                                                                    947 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                    465 mL
   Urine:
                                                                  1,035 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    632 mL
                                                                    482 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   680 K/uL
   7.6 g/dL
   126 mg/dL
   1.6 mg/dL
   28 mEq/L
   3.1 mEq/L
   24 mg/dL
   107 mEq/L
   145 mEq/L
   22.8 %
   16.4 K/uL
        [image002.jpg]
                            [**2146-11-10**]  03:18 PM
                            [**2146-11-10**]  04:34 PM
                            [**2146-11-10**]  08:44 PM
                            [**2146-11-11**]  04:09 AM
                            [**2146-11-11**]  05:38 PM
                            [**2146-11-12**]  04:45 AM
                            [**2146-11-12**]  05:15 PM
                            [**2146-11-13**]  03:39 AM
   WBC
   17.4
   16.1
   18.3
   18.5
   16.4
   Hct
   24.8
   20.5
   24.3
   25.4
   24.0
   22.8
   Plt
   [**Telephone/Fax (3) 10213**]16
   680
   Cr
   2.0
   1.9
   1.7
   1.6
   TCO2
   27
   29
   Glucose
   130
   121
   150
   126
   Other labs: PT / PTT / INR:14.6/35.0/1.3, ALT / AST:31/21, Alk Phos / T
   Bili:139/0.4, Differential-Neuts:87.9 %, Lymph:7.4 %, Mono:3.7 %,
   Eos:0.7 %, Lactic Acid:1.1 mmol/L, LDH:282 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   76 yo M with VRE endocarditis (abx course completed), spinal abcesses
   s/p laminectomy, recent prolonged intubation for aspiration PNA,
   readmitted to [**Hospital1 5**] from rehab with recurrent aspiration, transferred
   to the MICU with hypoxia.
   .
   # Acute Hypoxia: Given acuity of decompensation on the floor and his hx
   of recurrent aspiration, this most likely represents another aspiration
   event or a progression in the pneumonitis secondary to the event for
   which he was admitted. Also could be progression of PNA, but pt is
   already on broad gram postive and gram negative covg.
   - switched from dapto/[**Last Name (un) **] to linezolid/[**Last Name (un) **] for lung penetration. Will
   continue for 8 d course starting [**11-10**].
   - much improved s/p aggressive chest PT; now on room ir
   - CT scan shows bilateral pleural effusions and has hx of [**Numeric Identifier 2380**] BNP, so
   could represents component of CHF
   - lasix today, 10mg IV, can continue PRN, would be aggressive with
   diuresis
   - some concern for vasculitic/inflammatory process given atypical
   appearance of CXR & concomittant reanl failure; will spin urine
   .
   # Hemoptysis: probably secondary to either MRSA pneumonia, now being
   covered with the linezolid vs. hemoptysis secondary to CHF; hct stable,
   respiratory status stable.
   .
   # Fevers/leukocytosis: afebrile 48 hrs now. Likely unrelated to prior
   VRE as course completed or spinal process as no interval change.  Could
   be rxn to pneumonitis vs PNA.  Treatment as above
   - tx as above
   - f/u UCX, BCX, SCX
 no growth to date
   - stopping osteltamivir as results from state lab are negative for flu
   - ID following
 asked for CRP/ESR; which are high
   .
   # Epidural abscess s/p L5-S1 laminectomy: MRI unchanged
   -we were continuing daptomycin - therapy goes until [**11-14**]
 but now is
   switched to linezolid; no need for further treatment once the PNA abx
   course is completed.
   .
   # Altered mental status: Being worked up by floor team w/ neuro c/s and
   EEG. He is actually much more lucid and conversant than he was prior to
   transfer to rehab. Suspect that this is a slow recovery s/p two weeks
   of intubation, but appreciate neuro's continued input.
   .
   # Myoclonic jerks: Myoclonus with no seizure activity.
   - f/u neuro recs
   .
   # Lower extremity weakness: The patient presents with lower extremity
   weakness that per neurosurg was similar to his last admission. It
   likely relates to neurological damage and generalized deconditioning.
   Appears to have contracture in left leg at knee
   .
   # Lower extremity pain:
   -Continue gabapentin.
   -pain consult appreciated: uptitirating dilaudid, may add amitryptiline
   if MS continues to improve
   .
   # HTN
 stable, has been on hydral, Norvasc and metoprolol in past; not
   receiving here because BP stable; will d/c everything but metoprolol
   for now.
   .
   # Right arm swelling: The patient was noted to have a superficial
   cephalic vein clot on his right arm without the presence of DVT during
   an ultrasound on his last admission.
   - stopped heparin gtt
   .
   # Transaminitis: improving, trend.
   # Coagulopathy: po vitamin K, trend.
   # Thrombocytosis: trend. ASA for PLTS>1000
   # Diarrhea: The patient has persistent diarrhea. CDIFF NEGATIVE
   .
   # FEN: IVFs / replete lytes prn, repeat speech and swallow c/s
   # PPX: sc heparin, bowel regimen
   # ACCESS: PIV , PICC
   # CODE: FULL
   # CONTACT:  DAUGHTER, WIFE
   # DISPO: MICU for continued chest PT and intermittent hypoxia
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2146-11-10**] 06:35 AM
   20 Gauge - [**2146-11-12**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-11-13 07:38:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
    76M w/ h/o VRE endocarditis (AoV), epidural abscess s/p laminectomy,
   h/o recurrent aspiration.  Mr. [**Known lastname 2506**] has had two recent
   hospitaliizations and is well known to the ICU staff.  Initially
   admitted to the floor on [**10-7**] for ongoing fever.  Notably during his
   prior admission, the patient had fevers, felt to be [**1-17**] to aspiration
   pneumonitis.  Notably in the ED the patient
s NGT was coiled in his
   mouth.  He was also started on empiric tx for H1N1 SWO infection.
   Developed increasing hypoxia on the floor and transferred to the ICU.
   24 Hour Events:
                   History obtained from Patient
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Vancomycin
   Rash; Fever/[**Doctor First Name **]
   Aztreonam
   Rash; Fever/[**Doctor First Name **]
   Last dose of Antibiotics:
   Linezolid - [**2146-11-13**] 12:01 AM
   Meropenem - [**2146-11-13**] 12:01 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-11-12**] 09:00 PM
   Hydromorphone (Dilaudid) - [**2146-11-12**] 11:03 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-13**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 86 (83 - 95) bpm
   BP: 147/52(75) {121/49(66) - 147/65(83)} mmHg
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,667 mL
                                                                    950 mL
   PO:
             TF:
   IVF:
                                                                  1,667 mL
                                                                    950 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                    465 mL
   Urine:
                                                                  1,035 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    632 mL
                                                                    485 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Gen: Well appearing, no acute distress.  Answers questions
   appropriately
   HEENT: PERRL.
   OP clr.
   CV: Regular S1,S2. II/VI SEM.
   Limited pulmonary exam due to pain with movement. Diffuse  b/l rhonchi
   anteriorly..
   Abd: +bs. Soft. NT. ND.
   Ext: 2+ LE edema.  Tender to palpation diffusely RLE and Left side.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   680 K/uL
   126 mg/dL
   1.6 mg/dL
   28 mEq/L
   3.1 mEq/L
   24 mg/dL
   107 mEq/L
   145 mEq/L
   22.8 %
   16.4 K/uL
        [image002.jpg]
                            [**2146-11-10**]  03:18 PM
                            [**2146-11-10**]  04:34 PM
                            [**2146-11-10**]  08:44 PM
                            [**2146-11-11**]  04:09 AM
                            [**2146-11-11**]  05:38 PM
                            [**2146-11-12**]  04:45 AM
                            [**2146-11-12**]  05:15 PM
                            [**2146-11-13**]  03:39 AM
   WBC
   17.4
   16.1
   18.3
   18.5
   16.4
   Hct
   24.8
   20.5
   24.3
   25.4
   24.0
   22.8
   Plt
   [**Telephone/Fax (3) 10213**]16
   680
   Cr
   2.0
   1.9
   1.7
   1.6
   TCO2
   27
   29
   Glucose
   130
   121
   150
   126
   Other labs: PT / PTT / INR:14.6/35.0/1.3, ALT / AST:31/21, Alk Phos / T
   Bili:139/0.4, Differential-Neuts:87.9 %, Lymph:7.4 %, Mono:3.7 %,
   Eos:0.7 %, Lactic Acid:1.1 mmol/L, LDH:282 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   76M w/ h/o VRE endocarditis (AoV), epidural abscess s/p laminectomy,
   with progressive hypoxemia, hemoptysis, and ongoing fevers.
   1.Hypoxemia
originally attributed to aspiration PNA./ [**Last Name (un) 10170**]
   syndrome.  CXR shows continued progression of b/l peripheral
   opacities.  [**Month (only) 8**] be [**1-17**] to aspiration (given history) but CXR pattern is
   inconsistent with this diagnosis.  Given progression and recurrent
   fevers cannot r/o other etiologies incl BOOP, hypersensitivity
   pneumonitis, and eosinophilic pna.  Yesterday developed small amounts
   of hemoptysis.   Seems less likely c/w alveolar hemorrhage given
   improvement overnight.  Currently oxygen requirement too significant to
   consider bronchoscopy.
    I discussed with the family the prospect of bronchoscoy which they are
   considering.  They were at the bedside and clearly understand the risks
   of waiting.  Now that Mr. [**Known lastname 2506**] is improved will plan to re-check CXR
   and re-assess.
      -cont linezolid/meropenem.
      -Cont osteltamavir given for possible H1N1.
      - poor cough, chest PT.
      -[**Doctor First Name **]/ANCA r/o capillaritis.
   2. Fevers
 unclear etiology.  ? if [**1-17**] pulmonary process, incl
   possibly non-infectious. Neurosurgery evaluated felt disciitis was not
   a further issue and should continue to complete abx course.
   2. Superficial venous clot- R cephalic vv.  Local tx.
   3. Endocarditis
 on dapto, now linezolid to complete 6wks
 TTE w/o
   evidence of further endocarditis.
   4. Mental status
 improved by accounts of team that know him well .
   Likely [**1-17**] improvement of small infarcts/emboli previously noted.
   Other issues per HO note
   Appreciate Neuro and Neurosurg consult.
   ICU Care
   Nutrition: D5, await speech and swallow eval.
   Glycemic Control:
   Lines / Intubation:
   22 Gauge - [**2146-11-10**] 06:34 AM
   PICC Line - [**2146-11-10**] 06:35 AM
   Comments:
   Prophylaxis:
   DVT: currently anticoagulated.
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Dtr at bedside.
   Code status: Full code
   Disposition: ICU
   Total time spent: 45 minutes
   Patient is critically ill.

2146-11-13 12:10:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI:
   76M w/ h/o VRE endocarditis (AoV), epidural abscess s/p laminectomy,
   h/o recurrent aspiration.  Mr. [**Known lastname 2506**] has had two recent
   hospitaliizations and is well known to the ICU staff.  Initially
   admitted to the floor on [**10-7**] for ongoing fever.  Notably during his
   prior admission, the patient had fevers, felt to be [**1-17**] to aspiration
   pneumonitis.  Notably in the ED the patient
s NGT was coiled in his
   mouth.  He was also started on empiric tx for H1N1 SWO infection.
   Developed increasing hypoxia on the floor and transferred to the ICU.
   24 Hour Events:
   CT scan performed yesterdayt
   History obtained from Patient
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Vancomycin
   Rash; Fever/[**Doctor First Name **]
   Aztreonam
   Rash; Fever/[**Doctor First Name **]
   Last dose of Antibiotics:
   Linezolid - [**2146-11-13**] 12:01 AM
   Meropenem - [**2146-11-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-11-12**] 09:00 PM
   Hydromorphone (Dilaudid) - [**2146-11-12**] 11:03 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-13**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 72 (72 - 95) bpm
   BP: 123/57(73) {95/48(65) - 147/74(83)} mmHg
   RR: 13 (13 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,747 mL
                                                                  1,370 mL
   PO:
             TF:
   IVF:
                                                                  1,747 mL
                                                                  1,370 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                    670 mL
   Urine:
                                                                  1,035 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    712 mL
                                                                    700 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   Gen: Well appearing, no acute distress.  Answers questions
   appropriately
   HEENT: PERRL.
   OP clr.
   CV: Regular S1,S2. II/VI SEM.
   Lungs: Minimal b/l rhonchi posteriorly.  b/l basilar rales.
   Abd: +bs. Soft. NT. ND.
   Ext: 2+ LE edema.  Tender to palpation diffusely RLE and Left side.
   Skin:  Not assessed
   Labs / Radiology
   7.6 g/dL
   680 K/uL
   126 mg/dL
   1.6 mg/dL
   28 mEq/L
   3.1 mEq/L
   24 mg/dL
   107 mEq/L
   145 mEq/L
   22.8 %
   16.4 K/uL
        [image002.jpg]
                            [**2146-11-10**]  03:18 PM
                            [**2146-11-10**]  04:34 PM
                            [**2146-11-10**]  08:44 PM
                            [**2146-11-11**]  04:09 AM
                            [**2146-11-11**]  05:38 PM
                            [**2146-11-12**]  04:45 AM
                            [**2146-11-12**]  05:15 PM
                            [**2146-11-13**]  03:39 AM
   WBC
   17.4
   16.1
   18.3
   18.5
   16.4
   Hct
   24.8
   20.5
   24.3
   25.4
   24.0
   22.8
   Plt
   [**Telephone/Fax (3) 10213**]16
   680
   Cr
   2.0
   1.9
   1.7
   1.6
   TCO2
   27
   29
   Glucose
   130
   121
   150
   126
   Other labs: PT / PTT / INR:14.6/35.0/1.3, ALT / AST:31/21, Alk Phos / T
   Bili:139/0.4, Differential-Neuts:87.9 %, Lymph:7.4 %, Mono:3.7 %,
   Eos:0.7 %, Lactic Acid:1.1 mmol/L, LDH:282 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan:
   76M w/ h/o VRE endocarditis (AoV), epidural abscess s/p laminectomy,
   with progressive hypoxemia, hemoptysis, and fevers, now improved.
   1.Hypoxemia
originally attributed to aspiration PNA./ [**Last Name (un) 10170**]
   syndrome.  CXR initially showed continued progression of b/l peripheral
   opacities but began to improve on [**11-12**].  [**Month (only) 8**] be a component of
   aspiration but CXR pattern is inconsistent with this diagnosis.  Other
   etiologies incl BOOP, hypersensitivity pneumonitis, eosinophilic pna,
   and alveolar hemorrhage seem less likely given rapid improvement.  CT
   with impressive b/l effusions and improvement concordant with diuresis
   (and abx).  Prior BNP 11k.  Question whether improvement is due to
   diuresis plus treatment of bacterial infection.   UA w/o evidence of
   dysmorphic reds/casts.
      -cont linezolid/meropenem.
      -Cont osteltamavir given for possible H1N1.
      - poor cough, chest PT.
      -Still awaiting [**Doctor First Name **]/ANCA although capillaritis seems less likely.
   2. Superficial venous clot- R cephalic vv.  Local tx.
   3. Endocarditis
 on dapto, now linezolid to complete 6wks
 TTE w/o
   evidence of further endocarditis.
   4. Mental status
 improved by accounts of team that know him well .
   Likely [**1-17**] improvement of small infarcts/emboli previously noted.
   5. CRF- Cr stable, monitoring post CT I+.  Unclear significance of
   urine eos.
   6. Epidural abscess
 stable.  Appreciate Neuro and Neurosurg
   consult.
   Other issues per HO note
   ICU Care
   Nutrition: D5, await speech and swallow eval.
   Glycemic Control:
   Lines / Intubation:
   22 Gauge - [**2146-11-10**] 06:34 AM
   PICC Line - [**2146-11-10**] 06:35 AM
   Comments:
   Prophylaxis:
   DVT: currently anticoagulated.
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Dtr at bedside.
   Code status: Full code
   Disposition: Call out to floor.
   Total time spent: 30 minutes
   Patient is critically ill.